US08664383B2
Step 1: Synthesis of 3,5-Dimethyl-2-(4-phenoxyphenyl)pyrazine (abbreviation: Hdmpoppr)
First, into a recovery flask equipped with a reflux pipe were placed 1.35 g of 2-chloro-3,5-dimethylpyrazine, 2.02 g of 4-phenoxyphenylboronic acid, 1.00 g of sodium carbonate, 0.043 g of bis(triphenylphosphine)palladium(II)dichloride (abbreviation: Pd(PPh3)2Cl2), 15 mL of water, and 15 mL of acetonitrile, and the air inside the flask was replaced with argon. Heating was performed by microwave irradiation (2.45 GHz, 100 W) of this reaction container for 10 minutes, so that reaction occurred. After that, water was added to this reaction solution, and extraction with dichloromethane was carried out. A solution of the obtained extract was washed with water and dried over magnesium sulfate. After the drying, the solution was filtered. After the solvent of this solution was distilled, the obtained residue was washed with methanol, so that the pyrazine derivative which was the object of the synthesis, Hdmpoppr, was obtained (a white powder in a yield of 89%). Note that a microwave synthesis system (Discover, produced by CEM Corporation) was used for the microwave irradiation. The synthesis scheme of Step 1 is illustrated in the following formulae (e).

reactant | 2-chloro-3,5-dimethylpyrazine | 1.35 g | ClC1=NC=C(N=C1C)C | C6H7ClN2
reactant | 4-phenoxyphenylboronic acid | 2.02 g | O(C1=CC=CC=C1)C1=CC=C(C=C1)B(O)O | C12H11BO3
reactant | sodium carbonate | 1.00 g | C([O-])([O-])=O.[Na+].[Na+]
catalyst | bis(triphenylphosphine)palladium(II)dichloride | 0.043 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | water | 15 mL | O | H2O
product | 3,5-Dimethyl-2-(4-phenoxyphenyl)pyrazine | yield of 89% | CC=1C(=NC=C(N1)C)C1=CC=C(C=C1)OC1=CC=CC=C1 | C18H16N2O
